US07700628B2
D. N-(5-Chloropyridin-2-yl)-2-[2-(methoxymethoxy)-4-(2-methyl-1,3-dioxolan-2-yl)benzoylamino]benzamide
To a suspension of lithium 2-(methoxymethoxy)-4-(2-methyl-1,3-dioxolan-2-yl)-benzoate (0.08 g, 0.29 mmol) in CH2Cl2 (2 mL) at 0° C. was added DMF (2 drops) followed by oxalyl chloride (0.025 mL, 0.29 mmol). Vigorous bubbling occurred. The reaction was stirred at room temperature for 30 min and then the solvent was removed under reduced pressure. The residue was suspended in CH2Cl2 (10 mL) and cooled to 0° C. Pyridine (0.07 mL, 0.87 mmol) and N-(5-chloropyridiri-2-yl)-2-aminobenzamide (0.072 g, 0.29 mmol) were added and the reaction was stirred at room temperature for 6 h. The reaction was quenched with H2O:EtOAc (10 mL each) and extracted with EtOAc (3×30 mL). The organic solution was washed with 2 NHC (cold), H2O (10 mL), 2 N NaOH (cold) and H2O (10 mL), dried (Na2 SO4), and concentrated. The resulting residue was purified by silica gel flash chromatography (n-hexanes through 30% EtOAc/n-hexanes) to obtain the desired product (0.110 g, 76%); TLC Rf: 0.42 (40% EtOAc/n-hexanes).

reactant | lithium 2-(methoxymethoxy)-4-(2-methyl-1,3-dioxolan-2-yl)-benzoate | 0.29 mmol, 0.08 g | COCOC1=C(C(=O)[O-])C=CC(=C1)C1(OCCO1)C.[Li+]
reactant | oxalyl chloride | 0.29 mmol, 0.025 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pyridine | 0.87 mmol, 0.07 mL | N1=CC=CC=C1 | C5H5N
reactant | N-(5-chloropyridiri-2-yl)-2-aminobenzamide | 0.29 mmol, 0.072 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C12H10ClN3O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | N-(5-Chloropyridin-2-yl)-2-[2-(methoxymethoxy)-4-(2-methyl-1,3-dioxolan-2-yl)benzoylamino]benzamide | 0.110 g, 76% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)C1(OCCO1)C)OCOC)=O)=O | C25H24ClN3O6
